US08003677B2
N-(2-cyclopropylethyl)-2 [5-(2-trifluoromethylbenzoyl)-3,4,5,6-tetrahydro-1H-pyrrolo[3,4-c]pyrrol-2-yl]-pyrimidine-5-carboxamide
N-(2-cyclopropylethyl)-2-(3,4,5,6-Tetrahydro-1H-pyrrolo-[3,4-c]pyrrol-2-yl)pyrimidine-5-carboxamide; compound with trifluoroacetic acid (300 mg, 0.726 mmol) was reacted with 2-trifluoromethylbenzoyl chloride analogously to example 3F. Yield: 23%, M+H+: 472.16.

reactant | N-(2-cyclopropylethyl)-2-(3,4,5,6-Tetrahydro-1H-pyrrolo-[3,4-c]pyrrol-2-yl)pyrimidine-5-carboxamide; compound with trifluoroacetic acid | 0.726 mmol, 300 mg | FC(C(=O)O)(F)F.C1(CC1)CCNC(=O)C=1C=NC(=NC1)N1CC=2CNCC2C1
reactant | 2-trifluoromethylbenzoyl chloride | FC(C1=C(C(=O)Cl)C=CC=C1)(F)F | C8H4ClF3O
product | N-(2-cyclopropylethyl)-2 [5-(2-trifluoromethylbenzoyl)-3,4,5,6-tetrahydro-1H-pyrrolo[3,4-c]pyrrol-2-yl]-pyrimidine-5-carboxamide | Yield: 23% | C1(CC1)CCNC(=O)C=1C=NC(=NC1)N1CC=2CN(CC2C1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C24H24F3N5O2
